US04009196
In the same way as in Example 4, 15.3 ml (20 mmol) of a 1.31 M hexane solution of n-butyllithium was reacted with a solution of 960 mg (10 mmol) of 2-cyclohexenone in 5 ml of ether at -78° C for 30 minutes in the presence of 3.90 g (10 mmol) of tri-n-butylphosphine-copper (I) iodide complex. Then, a mixture consisting of 4 ml (56 mmol) of acetyl chloride, 5 ml of hexamethylphosphoric triamide and 10 ml of ether was rapidly added, and the mixture was stirred for 4 hours while gradually raising the temperature to room temperature. After the reaction, the reaction product was post-treated, extracted, washed, and dried in the same way as in Example 4 to afford 5.48 g of a crude product. The crude product was purified by distillation at reduced pressure to afford 1.81 g of 2-acetyl-3-n-butylcyclohexanone (boiling point 64° - 66° C/ 0.06 mmHg, 92%).

reactant | hexane | 1.31 M | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-cyclohexenone | 10 mmol, 960 mg | C1(C=CCCC1)=O | C6H8O
reactant | acetyl chloride | 56 mmol, 4 ml | C(C)(=O)Cl | C2H3ClO
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | hexamethylphosphoric triamide | 5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-acetyl-3-n-butylcyclohexanone | 1.81 g, 92% | C(C)(=O)C1C(CCCC1CCCC)=O | C12H20O2
